US04150032
1-Allyl-3,4-dihydro-7-methoxy-2(1H)naphthalenone
To a solution of 104.1 g (0.59 mole) 3,4-dihydro-7-methoxy-2(1H)naphthalenone in 100 ml dry benzene was added dropwise under nitrogen with stirring at room temperature 62.5 g (0.88 mole) pyrrolidine. After the addition (10-15 min), the reaction mixture was refluxed for 2.5 hr with azeotropic removal of water and then cooled to room temperature. The enamine solution was added dropwise to 143.8 g (1.19 mole) allyl bromide with stirring at a rate sufficient to maintain normal refluxing to provide a heavy precipitate. Benzene (50 ml) was added to facilitate stirring and reflux continued for 4 hr; then, 700 ml of water was added and refluxing resumed. After 2 hr, the reaction mixture was cooled to room temperature and diluted with 100 ml benzene. The benzene layer was separated and the aqueous phase extracted with benzene (2×100 ml). The combined extracts were washed with water (2×100 ml) and dried (Na2SO4). After evaporation of the solvent, the residue was distilled to give 113.5 g (89%) of VIIIa, b.p. 114°-118°/0.1-0.05 mm Hg. NMR: δ 2.40-3.10 (m, 6, allylic and alicyclic), 3.45 (t, 1, C1 --H, J=6.5), 3.75 (s, 3, OCH3), 4.8-6.1 (m, 3, olefinic), 6.7-7.2 (m, 3, ArH). IR: (neat) 1715 cm-1.

reactant | 3,4-dihydro-7-methoxy-2(1H)naphthalenone | 0.59 mole, 104.1 g | COC1=CC=C2CCC(CC2=C1)=O | C11H12O2
reactant | pyrrolidine | 0.88 mole, 62.5 g | N1CCCC1 | C4H9N
reactant | water | O | H2O
reactant | allyl bromide | 1.19 mole, 143.8 g | C(C=C)Br | C3H5Br
reactant | water | 700 ml | O | H2O
solvent | benzene | 100 ml | C1=CC=CC=C1 | C6H6
solvent | benzene | 100 ml | C1=CC=CC=C1 | C6H6
solvent | Benzene | 50 ml | C1=CC=CC=C1 | C6H6
product | 1-Allyl-3,4-dihydro-7-methoxy-2(1H)naphthalenone | C(C=C)C1C(CCC2=CC=C(C=C12)OC)=O | C14H16O2
